US08242125B2
To a suspension of potassium carbonate (19.2 g, 138 mmol) and benzyl alcohol (22 mL) is added 1,2-difluoro-3-methyl-4-nitrobenzene (12 g, 69 mmol, ref. WO2007121416) and the mixture is heated to 180° C. for 2 h. The reaction mixture is then diluted with EtOAc and washed with water. The organic layer is concentrated and the residue is separated with FCC (EtOAc/heptane from 0 to 20%) to give 1-benzyloxy-2-fluoro-3-methyl-4-nitrobenzene. 1H NMR (400 MHz, MeOD) δ ppm 7.87 (dd, J=9.35, 2.02 Hz, 1H), 7.44-7.47 (m, 2H), 7.32-7.41 (m, 3H), 7.17 (t, J=8.72 Hz, 1H), 5.26 (s, 2H), 2.49 (d, J=2.78 Hz, 3H).

reactant | potassium carbonate | 138 mmol, 19.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl alcohol | 22 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,2-difluoro-3-methyl-4-nitrobenzene | 69 mmol, 12 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])C)F | C7H5F2NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-benzyloxy-2-fluoro-3-methyl-4-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)[N+](=O)[O-])C)F | C14H12FNO3
